US07981874B2
Methyl 4-[methoxy(phenyl)phosphoryl]benzoate.
From a related procedure (Helv. Chim. Acta, 2004, 87, 825) a mixture of methyl 4-bromobenzoate (676 mg, 3.14 mmol), anhydrous NiBr2 (34.3 mg, 0.157 mmol), and PhP(OMe)2 (0.500 mL, 3.14 mmol) was added to a pressure vessel and heated to 160° C. (oil bath temperature) for 2 h. The reaction was cooled, diluted with EtOAc and washed with water (3×), brine, dried (MgSO4) and concentrated to afford ˜800 mg of a clear, colorless oil that solidified upon standing. The product was purified by MPLC (15-50% EtOAc in CH2Cl2) to afford the requisite product: MS: cal'd 291 (MH+), exp 291 (MH+).

reactant | methyl 4-bromobenzoate | 3.14 mmol, 676 mg | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | PhP(OMe)2 | 3.14 mmol, 0.500 mL | C1(=CC=CC=C1)P(OC)OC | C8H11O2P
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-[methoxy(phenyl)phosphoryl]benzoate | COP(=O)(C1=CC=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C15H15O4P
